US09107413B2
Preparation of N-benzyl-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbothioamide (Compound I-3) [Synthesis Method C]
To a 50 mL round-bottomed flask containing 4-[1-[4-(trifluoromethoxy)phenyl]-1,2,4-triazol-3-yl]benzaldehyde (500 mg, 1.5 mmol) in EtOH (3 mL) was added 4-benzylthiosemicarbazide (650 mg, 3.6 mmol). The reaction mixture was heated at 80° C. overnight. H2O was added upon completion of the reaction, and the crude product material was isolated by vacuum filtration. The title compound was isolated via RP-HPLC as a white solid (390 mg, 52%): mp 220-224° C.; 1H NMR (400 MHz, CDCl3) δ 9.29 (s, 1H), 8.59 (s, 1H), 8.21 (d, J=8.4 Hz, 2H), 7.85-7.79 (m, 3H), 7.71 (d, J=8.4 Hz, 2H), 7.46-7.30 (m, 8H), 5.01 (d, J=5.8 Hz, 2H); ESIMS m/z 497.2 (M+H).

reactant | 4-[1-[4-(trifluoromethoxy)phenyl]-1,2,4-triazol-3-yl]benzaldehyde | 1.5 mmol, 500 mg | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)(F)F | C16H10F3N3O2
reactant | 4-benzylthiosemicarbazide | 3.6 mmol, 650 mg | C(C1=CC=CC=C1)NC(NN)=S | C8H11N3S
reactant | H2O | O | H2O
solvent | EtOH | 3 mL | CCO | C2H6O
product | N-benzyl-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbothioamide | C(C1=CC=CC=C1)NC(=S)NN=CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C24H19F3N6OS
